US09108921B2
Step A: Benzyl 4-hydroxy-4-(2-methoxy-2-oxoethyl)piperidine-1-carboxylate (43B)
To a round-bottom flask containing Zn dust (2.3 g, 36 mmol) was added dibromoethane (585 mg, 3.11 mmol). The resulting mixture was warmed to 60° C. and allowed to cool for 1 min. This heating-cooling process was repeated three more times, and then the flask was allowed to cool for an additional 3 min. Trimethylsilylchloride (456 mg, 4.2 mmol) in THF (5 mL) was added, followed by addition of ethyl-2-bromoacetate (2 g, 12 mmol) in THF (8 mL). The reaction was warmed to 60° C. for an additional two hours until a dark grey suspension was obtained. The mixture was cooled to room temperature; benzyl 4-oxopiperidine-1-carboxylate (1.9 g, 8.2 mmol) in THF (20 mL) was then added. The resulting mixture was stirred for 3 days, and then quenched with water. The solid was filtered off, and the aqueous was extracted with ethyl acetate. The combined organic layers were washed with brine and dried over Na2SO4. Purification by a standard method gave the desired product. 1H NMR (CHLOROFORM-d) δ: 7.33-7.43 (m, 5H), 5.14 (s, 2H), 3.89-4.05 (m, 2H), 3.68-3.79 (m, 3H), 3.22-3.36 (m, 2H), 2.49 (s, 2H), 2.19 (s, 1H), 1.71 (d, J=12.6 Hz, 2H), 1.53 (dd, J=12.5, 4.2 Hz, 2H). LCMS (m/z): 308.1 (M+1)+

reactant | dibromoethane | 3.11 mmol, 585 mg | BrC(C)Br | C2H4Br2
reactant | Trimethylsilylchloride | 4.2 mmol, 456 mg | C[Si](C)(C)Cl | C3H9ClSi
reactant | ethyl-2-bromoacetate | 12 mmol, 2 g | C(C)OC(CBr)=O | C4H7BrO2
reactant | benzyl 4-oxopiperidine-1-carboxylate | 8.2 mmol, 1.9 g | O=C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C13H15NO3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | Zn | 36 mmol, 2.3 g | [Zn] | Zn
product | Benzyl 4-hydroxy-4-(2-methoxy-2-oxoethyl)piperidine-1-carboxylate | OC1(CCN(CC1)C(=O)OCC1=CC=CC=C1)CC(=O)OC | C16H21NO5
